US05773530
A mixture of ethyl 3-(N-benzyloxycarbonyl-N-methylamino)propionate (8 g), 10% palladium on carbon (1.6 g, 50% wet), conc.-hydrochloric acid (5.1 ml) in methanol (160 ml) was stirred for 5 hours at room temperature under hydrogen atmosphere. Catalyst was removed by filtration and mother liquor was concentrated in reduced pressure to give ethyl 3-(methylamino)propionate hydrochloride (4.31 g).

reactant | ethyl 3-(N-benzyloxycarbonyl-N-methylamino)propionate | 8 g | C(C1=CC=CC=C1)OC(=O)N(C)CCC(=O)OCC | C14H19NO4
reactant | hydrochloric acid | 5.1 ml | Cl | ClH
catalyst | palladium on carbon | 1.6 g | [Pd] | Pd
solvent | methanol | 160 ml | CO | CH4O
product | ethyl 3-(methylamino)propionate hydrochloride | 4.31 g | Cl.CNCCC(=O)OCC | InChI=1S/C6H13NO2.ClH/c1-3-9-6(8)4-5-7-2;/h7H,3-5H2,1-2H3;1H
